US07173135B2
v) Preparation of 4-chloro-3-cyano-7-methoxy-5-[(1-methylpiperidin-4-yl)oxy]quinoline
A mixture of 3-cyano-4-hydroxy-7-methoxy-5-[(1-methylpiperidin-4-yl)oxy]quinoline (313 mg) and phosphoryl chloride (1.8 ml) in acetonitrile (10 ml) was refluxed and stirred for 20 hours. After cooling, the solution was evaporated to dryness. The flask containing the residue was filled with ice chips and excess concentrated aqueous ammonia (25 ml) was added. This mixture was allowed to warm up while stirring overnight. The product was filtered off and dried under high vacuum overnight. The title compound was obtained as a white solid (225 mg, 68%); NMR spectrum: (DMSOd6) 1.80 (m, 2H), 1.98 (m, 2H), 2.18 (s, 3H), 2.27 (m, 2H), 2.58 (m, 2H), 3.94 (s, 3H), 4.72 (m, 1H), 6.92 (d, 1H), 7.09 (d, 1H), 8.93 (s, 1H); Mass spectrum: M+H+ 332.

reactant | 3-cyano-4-hydroxy-7-methoxy-5-[(1-methylpiperidin-4-yl)oxy]quinoline | 313 mg | C(#N)C=1C=NC2=CC(=CC(=C2C1O)OC1CCN(CC1)C)OC | C17H19N3O3
reactant | phosphoryl chloride | 1.8 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 4-chloro-3-cyano-7-methoxy-5-[(1-methylpiperidin-4-yl)oxy]quinoline | ClC1=C(C=NC2=CC(=CC(=C12)OC1CCN(CC1)C)OC)C#N | C17H18ClN3O2
